US09359359B2
A solution of 7-(4-chlorobenzyl)-8-(3-hydroxyprop-1-ynyl)-3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1H-purine-2,6(3H,7H)-dione (120 mg, 0.247 mmol) in methanol (15 mL) was degassed and refilled with nitrogen for 3 times; then 10% Pd/C (30 mg) was added. The mixture was degassed and refilled with hydrogen 3 times and stirred under 45 psi of hydrogen at room temperature for 20 min. The mixture was filtered and the filter cake was washed with methanol. The filtrate was concentrated to give 7-(4-chlorobenzyl)-8-(3-hydroxypropyl)-3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1H-purine-2,6(3H,7H)-dione (100 mg, 82.6% yield) as a grey solid. LCMS retention time 1.447 min; LCMS MH+ 491.

reactant | 7-(4-chlorobenzyl)-8-(3-hydroxyprop-1-ynyl)-3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1H-purine-2,6(3H,7H)-dione | 0.247 mmol, 120 mg | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CCCOC2OCCCC2)=O)C)C#CCO)C=C1 | C24H27ClN4O5
solvent | methanol | 15 mL | CO | CH4O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 7-(4-chlorobenzyl)-8-(3-hydroxypropyl)-3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1H-purine-2,6(3H,7H)-dione | 100 mg, 82.6% yield | ClC1=CC=C(CN2C(=NC=3N(C(N(C(C23)=O)CCCOC2OCCCC2)=O)C)CCCO)C=C1 | C24H31ClN4O5
